US04382934
A mixture of isatin (1.32 g) and 50% sodium hydride (0.44 g) in N,N-dimethylformamide (13 ml) was stirred for 10 minutes at ambient temperature. To the mixture was added a solution of 4-benzhydryl-1-(3-chloropropyl)piperazine (3.04 g) in N,N-dimethylformamide (6 ml) and the mixture was stirred for 2.5 hours at 50° to 60° C. The reaction mixture was poured into water (150 ml) and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate and evaporated to dryness. To the residue dissolved in ethanol (30 ml) was added 29% ethanolic hydrogen chloride (6 ml), followed by an addition of diethyl ether (20 ml). The resulting precipitate was filtered and recrystallized from a mixture of methanol and diethyl ether to give crystals of 1-[3-(4-benzhydryl-1-piperazinyl)propyl]isatin dihydrochloride (1.31 g), mp. 245° to 248° C. (dec.).

reactant | isatin | 1.32 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | sodium hydride | 0.44 g | [H-].[Na+]
reactant | 4-benzhydryl-1-(3-chloropropyl)piperazine | 3.04 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCCCl | C20H25ClN2
reactant | water | 150 ml | O | H2O
solvent | N,N-dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 1-[3-(4-benzhydryl-1-piperazinyl)propyl]isatin dihydrochloride | 1.31 g | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCCN1C(=O)C(=O)C2=CC=CC=C12 | InChI=1S/C28H29N3O2.2ClH/c32-27-24-14-7-8-15-25(24)31(28(27)33)17-9-16-29-18-20-30(21-19-29)26(22-10-3-1-4-11-22)23-12-5-2-6-13-23;;/h1-8,10-15,26H,9,16-21H2;2*1H
